US04514416
To a mixture of 100 ml of anhydrous methanol and about 50 ml of liquid ammonia, was added slowly 8.7 g of 4-methoxyiminomethyl-2-methoxyphenol hydrochloride. The mixture was stirred overnight at room temperature. The colorless crystals precipitated from the reaction mixture were collected by filtration, washed thoroughly with methanol, and dried to obtain 7.4 g of 4-amidino-2-methoxyphenol.

reactant | ammonia | N | H3N
reactant | 4-methoxyiminomethyl-2-methoxyphenol hydrochloride | 8.7 g | Cl.CON=CC1=CC(=C(C=C1)O)OC
solvent | methanol | 100 ml | CO | CH4O
product | 4-amidino-2-methoxyphenol | 7.4 g | C(N)(=N)C1=CC(=C(C=C1)O)OC | C8H10N2O2
